* C:\Users\Ian Diaz\Desktop\ITBA\TC\TP05\Ex3\Simulation\Sim1.asc
Ra1 N001 0 5007.8024200909085
Ra2 N001 Vi 167251.89421649798
R41 N003 0 14.484412493661052
R42 N003 Vi 492.74493686213856
C3 N005 N003 100n
C22 N005 Vi 9.689290835835595n
R1 a N005 85.69646126271483
C21 N005 0 90.310709n
Rb a N001 50000.0
XU1 N003 N001 VCC VEE a TL082
V1 VCC 0 15
V2 0 VEE 15
Ra1_2 N002 0 1943449.560500479
Ra2_2 N002 a 1070077.1515502646
R41_2 N004 0 492.18769435112773
R42_2 N004 a 615.1906435823864
C3_2 N006 N004 100n
C22_2 N006 a 9.760106521857027e-08
R1_2 Vo N006 11.117003948991345
C21_2 N006 0 2.398934781429718n
Rb_2 Vo N002 50000.0
XU2 N004 N002 VCC VEE Vo TL082
V3 Vi 0 AC 1
* Etapa 1
* Etapa 2
.ac dec 100 10 10meg
.lib C:\Users\Ian Diaz\Documents\LTspiceXVII\lib\TL082.mod
.backanno
.end
